US08614220B2
Ethyl 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate
To a well stirred suspension of ethyl 8-amino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (9.0 g, 33 mmol) in dimethoxyethane (0.7 L) under N2, cesium iodide (8.6 g, 33 mmol), bisublimated iodine (4.19 g, 16.5 mmol), copper iodide (2.0 g, 10 mmol) and isopentyl nitrite (6.62 mL, 49.5 mmol) were added in sequence. The reaction mixture was stirred vigorously at 65-70° C. for 3 hours. After cooling in an ice-water bath, the solid was filtered off. The filtrate was diluted with dichloromethane (2.0 L), washed with 30% ammonium hydroxide (150 mL), sodium thiosulphate (300 mL), brine, dried over anhydrous Na2SO4 and concentrated to give 5.69 g of the title compound (46% yield).

reactant | ethyl 8-amino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 33 mmol, 9.0 g | NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C13H15N5O2
reactant | cesium iodide | 33 mmol, 8.6 g | [I-].[Cs+]
reactant | iodine | 16.5 mmol, 4.19 g | II | I2
reactant | isopentyl nitrite | 49.5 mmol, 6.62 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | dimethoxyethane | 0.7 L | C(OC)COC | C4H10O2
catalyst | copper iodide | 10 mmol, 2.0 g | [Cu](I)I
product | Ethyl 8-iodo-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 5.69 g, 46% yield | IC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C13H13IN4O2
